US04727081
N-[3-[3-(1-Piperidinylmethyl)phenoxy]propyl]-1,3,4-oxadiazole-2,5-diamine
The compound is prepared by a method analogous to that of Example 40 from N-[3-[3-(1-piperidinylmethyl) phenoxy]propyl]-1,2-hydrazine dicarboxamide and phosphorus oxychloride.

reactant | N-[3-[3-(1-piperidinylmethyl) phenoxy]propyl]-1,2-hydrazine dicarboxamide | N1(CCCCC1)CC=1C=C(OCCCNC(=O)NNC(=O)N)C=CC1 | C17H27N5O3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N-[3-[3-(1-Piperidinylmethyl)phenoxy]propyl]-1,3,4-oxadiazole-2,5-diamine | N1(CCCCC1)CC=1C=C(OCCCNC=2OC(=NN2)N)C=CC1 | C17H25N5O2
